US05624950
To a solution of I g of (3aRS,4RS,5RS,7aSR)-2-benzyl-4-(2-methoxyphenyl)-5-methyl-4-perhydroisoindolol in 15 cm3 of anhydrous ethanol are added 2 g of 20% palladium hydroxide on charcoal and the reaction mixture is then hydrogenated, with stirring, at a temperature of 60° C. and at atmospheric pressure. After reaction for 1 hour, the reaction mixture is filtered and then concentrated to dryness under reduced pressure (2.7 kPa). 0.74 g of (3aRS,4RS, 5RS, 7aSR)-4-(2-methoxyphenyl)-5-methyl-4-perhydroisoindolol is obtained in the form of a yellow foam.

reactant | (3aRS,4RS,5RS,7aSR)-2-benzyl-4-(2-methoxyphenyl)-5-methyl-4-perhydroisoindolol | C(C1=CC=CC=C1)N1CC2CCC(C(C2C1)(O)C1=C(C=CC=C1)OC)C | C23H29NO2
solvent | ethanol | 15 cm3 | C(C)O | C2H6O
catalyst | palladium hydroxide on charcoal | 2 g | [OH-].[OH-].[Pd+2]
product | 4-(2-methoxyphenyl)-5-methyl-4-perhydroisoindolol | COC1=C(C=CC=C1)C1(C2CNCC2CCC1C)O | C16H23NO2
